US05292749
Methyl (RS)-2-phenyl-4-(1H-pyrazol-1-yl)butanoate
Methyl (RS)-4-chloro-2-phenylbutanoate (prepared as described in J. Amer. Chem. Soc., 443, 73, 1951) (1 g) and pyrazole (1 g) were heated together at 120° C. for 5 hour, cooled and the residue partitioned between ether and water. The organic layer was washed with water and extracted with 2M hydrochloric acid. The acid extracts were basified with sodium carbonate and extracted with ether. The organic layer was dried over magnesium sulphate and evaporated to give the title compound (0.37 g, 33%) as a colourless oil.

reactant | Methyl (RS)-4-chloro-2-phenylbutanoate | 1 g | ClCCC(C(=O)OC)C1=CC=CC=C1 | C11H13ClO2
reactant | pyrazole | 1 g | N1N=CC=C1 | C3H4N2
product | Methyl (RS)-2-phenyl-4-(1H-pyrazol-1-yl)butanoate | 0.37 g, 33% | C1(=CC=CC=C1)C(C(=O)OC)CCN1N=CC=C1 | C14H16N2O2
